### PR TITLE
feat(Topology/Homotopy): add Path.subpathOn for restricting paths to subintervals

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `Path.subpathOn`, which extracts a subpath from a path γ on an interval [a, b] ⊆ [0, 1] by reparametrizing via the affine map t ↦ a + t(b - a).

### Main results

- `Path.subpathOn`: definition of the restricted path
- `Path.subpathOn_trans`: composing subpaths is homotopic to the combined subpath
- `Path.subpathOn_self`: the trivial subpath [a,a] is homotopic to the constant path
- `Path.subpathOn_zero_one`: the full subpath [0,1] is homotopic to the original path
- Quotient-level versions of these theorems

This material is split out from https://github.com/leanprover-community/mathlib4/pull/31576 to allow independent review. PR #31576 will depend on this PR once merged.

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/Topology/Homotopy/Path.lean [hunk 1]
```diff
@@ -457,3 +457,162 @@ theorem pathExtend_evalAt {f g : C(X, Y)} (H : f.Homotopy g) (x : X) :
...
+      · apply add_nonneg a.2.1
+        apply mul_nonneg t.2.1
+        linarith [show (a : ℝ) ≤ b from hab]
+      · calc (a : ℝ) + t * ((b : ℝ) - a)
+            ≤ a + 1 * ((b : ℝ) - a) := by
+              apply add_le_add_right
+              apply mul_le_mul_of_nonneg_right t.2.2
+              linarith [show (a : ℝ) ≤ b from hab]
+          _ = b := by ring
+          _ ≤ 1 := b.2.2⟩ := rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean]: I find it really hard to read this statement.

**Comment by jcommelin** [comment]
/claude learn new skill: run `lake exe mk_all` after adding new files

File: Mathlib/Topology/Homotopy/Path.lean [hunk 2]
```diff
@@ -457,3 +457,136 @@ theorem pathExtend_evalAt {f g : C(X, Y)} (H : f.Homotopy g) (x : X) :
...
+-/
+theorem subpathOn_trans_aux₂ (γ : Path x y) (a b : unitInterval) (hab : a ≤ b)
+    (s t : unitInterval) :
+    Path.Homotopic
+      ((γ.subpathOn a (convexCombo a b s) (le_convexCombo hab _)).trans
+        (γ.subpathOn (convexCombo a b s) b (convexCombo_le hab _)))
+      ((γ.subpathOn a (convexCombo a b t) (le_convexCombo hab _)).trans
+        (γ.subpathOn (convexCombo a b t) b (convexCombo_le hab _))) := by
+  -- Construct explicit homotopy: at parameter u, split at convexCombo(a, b, convexCombo(s, t, u))
+  refine ⟨{
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean:510]: `by refine`

File: Mathlib/Topology/Homotopy/Path.lean [hunk 3]
```diff
@@ -457,3 +457,136 @@ theorem pathExtend_evalAt {f g : C(X, Y)} (H : f.Homotopy g) (x : X) :
...
+/--
+A subpath from a to b composed with a subpath from b to c is homotopic to
+the subpath from a to c.
+-/
+theorem subpathOn_trans
+    (γ : Path x y) (a b c : unitInterval) (hab : a ≤ b) (hbc : b ≤ c) :
+    Path.Homotopic
+      ((γ.subpathOn a b hab).trans (γ.subpathOn b c hbc))
+      (γ.subpathOn a c (hab.trans hbc)) := by
+  -- This is an easy combination of `eq_convexCombo` and the two auxiliary lemmas above.
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean]:
```suggestion
```

File: Mathlib/Topology/Homotopy/Path.lean [hunk 4]
```diff
@@ -457,3 +457,136 @@ theorem pathExtend_evalAt {f g : C(X, Y)} (H : f.Homotopy g) (x : X) :
...
+  suffices ∀ s : unitInterval,
+    Path.Homotopic
+      ((γ.subpathOn a (Set.Icc.convexCombo a c s) (Set.Icc.le_convexCombo (hab.trans hbc) _)).trans
+        (γ.subpathOn (Set.Icc.convexCombo a c s) c (Set.Icc.convexCombo_le (hab.trans hbc) _)))
+      (γ.subpathOn a c (hab.trans hbc)) by
+    have hb := Set.Icc.eq_convexCombo hab hbc
+    convert this ?_ <;> exact hb
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean]: Are we missing api?

File: Mathlib/Topology/Homotopy/Path.lean [hunk 5]
```diff
@@ -457,3 +457,136 @@ theorem pathExtend_evalAt {f g : C(X, Y)} (H : f.Homotopy g) (x : X) :
...
+    Homotopic (γ.subpathOn a a (le_refl a)) (Path.refl (γ a)) := by
+  convert Homotopic.refl _
+  ext t
+  simp [Path.refl, Path.subpathOn]
+
+/-- The subpath from 0 to 1 is homotopic to the original path (up to casting endpoints). -/
+theorem subpathOn_zero_one (γ : Path x y) :
+    Homotopic
+      ((γ.subpathOn 0 1 (zero_le_one)).cast (by simp [γ.source]) (by simp [γ.target])) γ := by
+  convert Homotopic.refl _
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean]: Idem

File: Mathlib/Topology/UnitInterval/ConvexSpace.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+
+/-- Convex combination in a convex space, parameterized by a point in the unit interval.
+`convexCombo t x y` computes `(1 - t) * x + t * y`. -/
+noncomputable def convexCombo (t : unitInterval) (x y : M) : M :=
+  convexComboPair (1 - (t : ℝ)) (t : ℝ) (by nlinarith [t.2.1, t.2.2]) t.2.1 (by ring) x y
+
+@[simp]
+theorem convexCombo_zero (x y : M) : convexCombo 0 x y = x := by
+  unfold convexCombo
+  convert convexComboPair_one (R := ℝ) (x := x) (y := y) using 2; norm_num
```
Comment (jcommelin) [inline Mathlib/Topology/UnitInterval/ConvexSpace.lean]: Why the unfold if you're converting anyways?
Can the convert be avoided altogether? Maybe with simpa?

**Comment by kim-em** [comment]
Closing in favour of #31576, which has absorbed the `subpathOn` and `convexCombo` content. The `convexCombo` formulation evolved during #31576's development to operate directly on `Icc a b` rather than via a general `ConvexSpace`, and the corresponding `convexCombo_same` lemma appears there as `convexCombo_eq`.

Thanks @jcommelin for the review!
